US06936608B2
2-(3-Bromophenyl)-3,5-difluoropyridine (80 mg, 0.30 mmol) was reacted with bis(neopentyl glycolato)diboron (74 mg, 0.33 mmol) using the method of Example 20 to give 3-(3,5-difluoropyridin-2-yl)phenylboronic acid as a tan solid: MS (ES+) m/z 236 [M+H]+.

reactant | 2-(3-Bromophenyl)-3,5-difluoropyridine | 0.30 mmol, 80 mg | BrC=1C=C(C=CC1)C1=NC=C(C=C1F)F | C11H6BrF2N
reactant | bis(neopentyl glycolato)diboron | 0.33 mmol, 74 mg | B1(OCC(CO1)(C)C)B2OCC(CO2)(C)C | C10H20B2O4
product | 3-(3,5-difluoropyridin-2-yl)phenylboronic acid | FC=1C(=NC=C(C1)F)C=1C=C(C=CC1)B(O)O | C11H8BF2NO2
